US06455528B1
(1) 1-(Pyrazin-2-yl)piperazine
To piperazine (48.0 g) dissolved at 110° C. was added 2-chloropyrazine (5.0 ml) and the mixture was stirred at 150° C. for 2 hr. The reaction mixture was poured into an aqueous sodium hydroxide solution and extracted with chloroform. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give the title compound (6.4 g) as a brown oil.

reactant | piperazine | 48.0 g | N1CCNCC1 | C4H10N2
reactant | 2-chloropyrazine | 5.0 ml | ClC1=NC=CN=C1 | C4H3ClN2
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(Pyrazin-2-yl)piperazine | 6.4 g | N1=C(C=NC=C1)N1CCNCC1 | C8H12N4
